US06417212B1
A solution of 2,3-butanedione monooxime (50 g, 0.49 mol) and 4-bromo-benzaldehyde (101 g, 0.54 mol) in acetic acid (500 mL) was cooled to 0° C. and then gaseous HCl was bubbled through the solution for 35 min while the reaction was stirred in an ice bath. Diethyl ether (500 mL) was then added to the reaction to precipitate the product and the resultant slurry stirred 45 min at 0° C. before being filtered. The solids were rinsed with Et2O (50 mL), taken up in water (1 L) and conc. NH4OH (60 mL) added to the slurry. This mixture was extracted with CHCl3, the organic layer was dried (MgSO4), and the solvent removed in vacuo to give 97.4 g (74%) of 4,5-dimethyl-2-(4-bromophenyl)-oxazole oxide as a white solid. The compound should be used directly within 24-48 h: 1H NMR (500 MHz, CDCl3) 8.34 (d, J=9.0 Hz, 2H), 7.61 (d, J=9.0 Hz, 2H), 2.35 (s, 3H), 2.20 (s, 3H); 13C (125 MHz, CDCl3) 142.1, 131.9, 129.5, 126.3, 124.1, 122.2, 11.1, 6.2; IR (KBr) 1685, 1529, 1418, 1377, 1233, 1165 cm−1; UV (EtOH)max 307 nm (24371); HRMS (TOF) m/z calculated for C11H1179BrNO2: 267.997, found 267.9951.

reactant | 2,3-butanedione monooxime | 0.49 mol, 50 g | CC(C(C)=O)=NO | C4H7NO2
reactant | 4-bromo-benzaldehyde | 0.54 mol, 101 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-2-(4-bromophenyl)-oxazole oxide | 97.4 g, 74% | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)Br)[O-] | C11H10BrNO2
